US04352806
Preparation of 5-Chloro-4-Hydroxy-6-Methyl-2-Trichloromethylpyrimidine
A mixture of 30.0 g (0.18 mole) trichloroacetamidine, 25.2 g (0.18 mole) potassium carbonate, 30.3 g (0.18 mole) ethyl 2-chloroacetoacetate, and 300 ml water was stirred 18 hours. The aqueous solution was decanted from heavier tars and acidified with hydrochloric acid. The precipitate that was formed was filtered, washed, and dried to give 14.7 g (31% yield; mp 130°-145° C.) of crude product. An analytical sample was prepared by recrystallization from cyclohexane (mp 156°-157° C.). The structure was confirmed via infrared and elemental analysis.

reactant | trichloroacetamidine | 0.18 mole, 30.0 g | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
reactant | potassium carbonate | 0.18 mole, 25.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-chloroacetoacetate | 0.18 mole, 30.3 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | water | 300 ml | O | H2O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 5-Chloro-4-Hydroxy-6-Methyl-2-Trichloromethylpyrimidine | 31% yield | ClC=1C(=NC(=NC1C)C(Cl)(Cl)Cl)O | C6H4Cl4N2O
